US05281598
To a stirred solution of 1-(3-phenylpropionyl)piperazine (115 g) in toluene (557 ml) and triethylamine (76 ml) was added benzoyloxyacetyl chloride (87 ml) at such a rate to keep the temperature below 30° C. After 30 min water (577 ml) was added and the reaction was stirred for a further 30 min. The layers were separated and the organic layer was washed with sodium carbonate and sodium chloride solution. The dried solution was evaporated in vacuo to give 193 g of 1-[(phenylmethoxy)acetyl]-4-(3-phenylpropionyl)piperazine.

reactant | 1-(3-phenylpropionyl)piperazine | 115 g | C1(=CC=CC=C1)CCC(=O)N1CCNCC1 | C13H18N2O
reactant | benzoyloxyacetyl chloride | 87 ml | C(C1=CC=CC=C1)(=O)OCC(=O)Cl | C9H7ClO3
reactant | water | 577 ml | O | H2O
solvent | toluene | 557 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 76 ml | C(C)N(CC)CC | C6H15N
product | 1-[(phenylmethoxy)acetyl]-4-(3-phenylpropionyl)piperazine | 193 g | C1(=CC=CC=C1)COCC(=O)N1CCN(CC1)C(CCC1=CC=CC=C1)=O | C22H26N2O3
